US07368578B2
To a mixture of ethyl 3-hydroxy-1H-pyrazole-4-carboxylate (1.06 g), 3-chloromethylpyridine hydrochloride (2.79 g) and N,N-dimethylformamide (50 mL) was added sodium hydride (60% in oil, 1.36 g) at 0° C. The mixture was stirred at room temperature for 15 hrs. Saturated aqueous sodium hydrogen carbonate was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography, from a fraction eluted with ethyl acetate-methanol (10:1, v/v), ethyl 3-(pyridin-3-ylmethoxy)-1-(pyridin-3-ylmethyl)-1H-pyrazole-4-carboxylate as colorless crystals (1.23 g, yield 53%). Recrystallization from ethyl acetate-hexane gave colorless needle crystals. melting point: 120-121° C.

reactant | ethyl 3-hydroxy-1H-pyrazole-4-carboxylate | 1.06 g | OC1=NNC=C1C(=O)OCC | C6H8N2O3
reactant | 3-chloromethylpyridine hydrochloride | 2.79 g | Cl.ClCC=1C=NC=CC1
reactant | sodium hydride | 1.36 g | [H-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | ethyl 3-(pyridin-3-ylmethoxy)-1-(pyridin-3-ylmethyl)-1H-pyrazole-4-carboxylate | 1.23 g, yield 53% | N1=CC(=CC=C1)COC1=NN(C=C1C(=O)OCC)CC=1C=NC=CC1 | C18H18N4O3
